US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(cyanomethyl)phenyl)cyclopropane-carboxamide (40 mg, 0.10 mmol), 4-(dimethylcarbamoyl)phenylboronic acid (29 mg, 0.15 mmol), 1 M K2CO3 (0.2 mL, 0.2 mmol), Pd-FibreCat 1007 (8 mg, 0.1 mmol), and N,N-dimethylformamide (1 mL) were combined. The mixture was irradiated in the microwave at 150° C. for 10 minutes. Volatiles were removed in vacuo and crude product was purified by chromatography on silica gel (eluting with 0-100% ethyl acetate in hexanes) to afford 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(cyanomethyl)-N,N-dimethylbiphenyl-4-carboxamide (9.1 mg, 20%). ESI-MS m/z calc. 467.2, found 468.5 (M+1)+; retention time 2.96 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(cyanomethyl)phenyl)cyclopropane-carboxamide | 0.10 mmol, 40 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)CC#N)Br | C19H15BrN2O3
reactant | 4-(dimethylcarbamoyl)phenylboronic acid | 0.15 mmol, 29 mg | CN(C(=O)C1=CC=C(C=C1)B(O)O)C | C9H12BNO3
reactant | K2CO3 | 0.2 mmol, 1 M, 0.2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(cyanomethyl)-N,N-dimethylbiphenyl-4-carboxamide | 9.1 mg, 20% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)N(C)C)CC#N | C28H25N3O4
